US04199532
Two methods of preparing 2,2',4,4',6,6'hexanitrostilbene (HNS) are disclosed in U.S. Pat. No. 3,505,413, entitled "Hexanitrostilbene," issued to Kathryn, G. Shipp on Apr. 7, 1970. In the first 2,4,6-trinitrotoluene was reacted with 5 percent sodium hypochlorite (Clorox) at 0° C. in a tetrahydrofuran (THF)-methanol solvent mixture to produce HNS in a single step (disclosed yield 42%). In the second method, the above conditions were used except that the reaction was stopped after one minute by drowning the reaction mixture in very dilute hydrochloric acid. The reported yield of 2,4,6-trinitrobenzyl chloride was 85 percent. Next the 2,4,6-trinitrobenzyl chloride was reacted at room temperature with sodium hydroxide to give HNS (reported yield 50%). Thus, the yield of HNS using the two step method was 0.85×0.50 =0.425 or 42.5%. It would be desirable to find a method of substantially increasing this yield.

reactant | hydrochloric acid | Cl | ClH
reactant | 2,4,6-trinitrobenzyl chloride | [N+](=O)([O-])C1=C(CCl)C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C7H4ClN3O6
reactant | sodium hydroxide | [OH-].[Na+]
product | HNS | yield 50% | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])C=CC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C14H6N6O12
